US05062881
Preparation of Methyl o-(1-hydroxy-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)benzoate
A solution of potassium hydroxide (0.19 g, 0.00339 mol) and ethanol is added portionwise to a 0° C. mixture of Diazald® N-methyl-N-nitroso-p-toluenesulfonamide (0.73 g, 0.0034 mol) and ether. The mixture is kept in an ice-bath for 10 minutes then in an water bath for 10 minutes. The diazomethane is distilled into a mixture of o-(1-hydroxy-4-isopropyl-4-methyl-5-oxo-2-imi-dazolin-2-yl)benzoic acid (0.67 g, 0.00243 mol) and ethanol. After 45 minutes the reaction mixture is quenched with acetic acid and concentrated in vacuo to give an oil. The oil is dissolved into ethyl acetate, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield an off-white solid. The solid is chromatographed using silica gel and methylene chloride/ethyl acetate 3:1 as eluent to give the title compound as a white solid (0.18 g, 26%), mp 146°-150° C., identified by IR and NMR spectral analyses.

reactant | potassium hydroxide | 0.00339 mol, 0.19 g | [OH-].[K+]
reactant | Diazald | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | N-methyl-N-nitroso-p-toluenesulfonamide | 0.0034 mol, 0.73 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)N=O | C8H10N2O3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | o-(1-hydroxy-4-isopropyl-4-methyl-5-oxo-2-imi-dazolin-2-yl)benzoic acid | 0.00243 mol, 0.67 g | ON1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)O)C=CC=C1 | C14H16N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | Methyl o-(1-hydroxy-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)benzoate | 0.18 g, 26% | ON1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=CC=C1 | C15H18N2O4
